* File: DFF.pex.netlist.pex
* Created: Tue May 23 13:18:40 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%A 29 30 34 39 46 50 53 57
c0 98 0 0.123284f
c1 89 0 0.0536565f
c2 88 0 0.104079f
c3 82 0 0.11346f
c4 81 0 0.118326f
c5 77 0 0.111945f
c6 75 0 0.0874834f
c7 70 0 0.299048f
c8 67 0 0.135759f
c9 64 0 0.0983455f
c10 62 0 0.136948f
c11 59 0 0.101835f
c12 53 0 0.107003f
c13 46 0 0.105389f
c14 37 0 0.222304f
c15 33 0 0.268239f
c16 27 0 0.741714f
c17 25 0 0.03979f
c18 23 0 0.0149144f
c19 22 0 0.0174766f
c20 19 0 0.0157386f
c21 18 0 0.359857f
c22 15 0 0.0485483f
c23 10 0 0.176855f
c24 6 0 0.113205f
c25 3 0 0.0958554f
r26 86 89 0.01625
r27 86 88 0.0487391
r28 81 84 0.0487391
r29 81 82 8
r30 64 67 8.1313
r31 64 66 8.1313
r32 64 70 13.2552
r33 60 98 0.064544
r34 59 62 8.22041
r35 59 61 8.1313
r36 59 60 13.2552
r37 57 67 34.25
r38 53 66 26.5
r39 50 62 34.25
r40 46 61 26.25
r41 41 82 16.3327
r42 39 41 4.59
r43 37 86 8
r44 36 37 8.16635
r45 34 36 2.295
r46 33 77 8
r47 32 33 8.16635
r48 30 32 2.295
r49 29 32 2.295
r50 26 75 0.0487391
r51 25 27 0.0516853
r52 25 26 8
r53 22 27 1.7363
r54 20 23 0.0296412
r55 19 70 0.0516721
r56 19 20 0.0745652
r57 18 22 0.039111
r58 17 23 0.00770322
r59 17 18 0.730435
r60 15 23 0.0296412
r61 15 98 0.14
r62 10 89 0.0255799
r63 10 84 0.2964
r64 8 77 0.0255799
r65 8 88 0.2405
r66 5 77 0.0487391
r67 5 6 0.3692
r68 3 6 0.0363174
r69 3 75 0.2548
.ends

.subckt PM_DFF%C 14 15 19 26 30
c0 50 0 0.0621624f
c1 49 0 0.136172f
c2 48 0 0.0904342f
c3 43 0 0.101513f
c4 41 0 0.128895f
c5 35 0 0.131584f
c6 28 0 0.143624f
c7 26 0 0.105925f
c8 22 0 0.141057f
c9 18 0 0.279173f
c10 14 0 9.3511e-19
c11 10 0 0.0366788f
c12 7 0 0.0453003f
c13 5 0 0.0549944f
c14 2 0 0.10534f
r15 48 50 0.0487391
r16 48 49 8
r17 43 46 0.0487391
r18 38 41 0.0487391
r19 32 35 6.03191
r20 32 49 13.2552
r21 28 35 4.73303
r22 28 30 34.25
r23 24 35 4.73303
r24 24 26 26.25
r25 22 43 8
r26 21 22 16.3327
r27 19 21 4.59
r28 18 38 8
r29 17 18 8.16635
r30 15 17 2.34
r31 14 17 2.295
r32 9 10 0.00715299
r33 9 50 0.1911
r34 6 10 0.0275239
r35 6 7 0.1274
r36 5 10 0.0275239
r37 5 46 0.1118
r38 2 7 0.0363174
r39 2 41 0.1105
.ends

.subckt PM_DFF%CLK 12 16 19 23 46
c0 42 0 0.12649f
c1 41 0 0.117748f
c2 40 0 0.121328f
c3 37 0 0.12389f
c4 36 0 0.0736017f
c5 34 0 0.169088f
c6 31 0 0.115636f
c7 19 0 0.106208f
c8 14 0 0.131175f
c9 12 0 0.10287f
c10 10 0 0.126634f
c11 5 0 0.01699f
c12 4 0 0.823001f
c13 3 0 0.110902f
r14 40 42 0.0487391
r15 40 41 8
r16 37 46 0.0244186
r17 36 37 8
r18 31 34 8.1313
r19 31 33 8.1313
r20 31 41 13.2552
r21 25 37 13.2552
r22 23 34 34.25
r23 19 33 26.25
r24 14 16 34.25
r25 10 14 4.78123
r26 10 25 5.96842
r27 10 12 26.25
r28 6 42 0.3601
r29 4 6 0.0363174
r30 4 5 1.768
r31 3 36 0.0487391
r32 2 5 0.0363174
r33 2 3 0.3796
.ends

.subckt PM_DFF%D1 20 21 25 30 37 41 44 48
c0 75 0 0.194193f
c1 73 0 0.144519f
c2 69 0 0.070996f
c3 65 0 0.151775f
c4 58 0 0.136123f
c5 56 0 0.133225f
c6 53 0 0.131663f
c7 50 0 0.0922135f
c8 46 0 0.129795f
c9 44 0 0.10216f
c10 37 0 0.0956933f
c11 33 0 0.106459f
c12 28 0 0.237759f
c13 24 0 0.269655f
c14 19 0 0.17004f
c15 18 0 0.0959011f
c16 13 0 0.0385778f
c17 11 0 0.192606f
c18 9 0 0.0140675f
c19 8 0 0.857133f
c20 7 0 0.0905729f
c21 5 0 0.119567f
c22 3 0 0.0578152f
c23 2 0 0.0630103f
r24 73 75 0.0487391
r25 73 74 8
r26 69 71 0.0487391
r27 55 58 6.03191
r28 55 56 13.2552
r29 51 74 0.0493182
r30 50 53 8.1313
r31 50 52 8.1313
r32 50 51 13.2552
r33 46 58 4.73303
r34 46 48 34.25
r35 42 58 4.73303
r36 42 44 26.25
r37 41 53 34.25
r38 37 52 26.25
r39 33 65 8
r40 32 33 16.3327
r41 30 32 4.59
r42 28 69 8
r43 27 28 8.16635
r44 25 27 2.295
r45 24 61 8
r46 23 24 8.16635
r47 21 23 2.295
r48 20 23 2.295
r49 19 51 0.0643958
r50 18 56 0.0647029
r51 18 19 0.275435
r52 13 75 0.4394
r53 10 13 0.0363174
r54 10 11 0.4264
r55 8 11 0.0363174
r56 8 9 1.7121
r57 7 9 0.0363174
r58 7 71 0.2262
r59 5 69 0.0487391
r60 4 65 0.0487391
r61 4 5 0.2249
r62 3 61 0.0487391
r63 2 69 0.0255799
r64 2 3 0.2288
.ends

.subckt PM_DFF%RESET 22 26 29 33 36 40 65
c0 62 0 0.205439f
c1 61 0 0.159049f
c2 60 0 0.140013f
c3 56 0 0.164717f
c4 53 0 0.121989f
c5 50 0 0.134503f
c6 48 0 0.14034f
c7 45 0 0.137242f
c8 42 0 0.10022f
c9 36 0 0.109701f
c10 31 0 0.132026f
c11 29 0 0.0947391f
c12 22 0 0.103742f
c13 19 0 0.0159803f
c14 15 0 0.0371095f
c15 12 0 0.0266377f
c16 11 0 0.253489f
c17 9 0 0.11659f
c18 8 0 0.037805f
c19 3 0 0.0881378f
c20 2 0 0.488579f
r21 60 62 0.0487391
r22 60 61 8
r23 53 56 8.1313
r24 53 55 8.1313
r25 53 61 13.2552
r26 47 50 6.03191
r27 47 48 13.2552
r28 43 65 0.0252326
r29 42 45 8.1313
r30 42 44 8.1313
r31 42 43 13.2552
r32 40 56 34.25
r33 36 55 26.25
r34 31 50 4.73303
r35 31 33 34.25
r36 27 50 4.73303
r37 27 29 26.25
r38 26 45 34.25
r39 22 44 26.25
r40 15 18 0.0516853
r41 15 16 8
r42 13 19 0.0296412
r43 12 48 0.0647029
r44 12 13 0.0852174
r45 11 19 0.00770322
r46 11 18 0.563043
r47 9 43 0.0647029
r48 8 19 0.0296412
r49 8 9 0.120217
r50 4 62 0.4485
r51 3 16 0.0487391
r52 2 4 0.0363174
r53 2 3 1.1765
.ends

.subckt PM_DFF%B 48 49 53 58 65 69 72 75 78 82
c0 118 0 0.029854f
c1 117 0 0.142305f
c2 116 0 0.124874f
c3 112 0 0.0717755f
c4 110 0 0.0333921f
c5 108 0 0.0617692f
c6 101 0 0.0900053f
c7 98 0 0.123261f
c8 97 0 0.117106f
c9 95 0 0.137406f
c10 92 0 0.100145f
c11 90 0 0.10017f
c12 87 0 0.165503f
c13 84 0 0.11653f
c14 78 0 0.113831f
c15 73 0 0.253901f
c16 70 0 0.0869048f
c17 65 0 0.104565f
c18 61 0 0.102097f
c19 56 0 0.209097f
c20 52 0 0.264502f
c21 47 0 0.114961f
c22 45 0 0.176046f
c23 35 0 0.00251636f
c24 34 0 0.0377693f
c25 33 0 0.0577551f
c26 31 0 0.243375f
c27 29 0 0.0212864f
c28 28 0 0.183072f
c29 27 0 0.417207f
c30 25 0 0.0205759f
c31 24 0 0.574118f
c32 23 0 0.102358f
c33 18 0 0.0234502f
c34 17 0 0.0174025f
c35 15 0 0.079401f
c36 14 0 0.0228842f
c37 11 0 0.074423f
c38 10 0 0.806882f
c39 8 0 0.229724f
c40 7 0 0.349568f
c41 5 0 0.0570648f
c42 4 0 0.28149f
c43 3 0 0.093497f
r44 116 118 0.0487391
r45 116 117 8
r46 108 110 0.0487391
r47 97 98 8
r48 92 95 8.1313
r49 92 94 8.1313
r50 92 117 13.2552
r51 89 90 13.2552
r52 84 87 8.22041
r53 84 86 8.1313
r54 84 98 13.2552
r55 82 95 34.25
r56 78 94 26.5
r57 73 89 8.03563
r58 73 75 34.25
r59 70 89 11.1752
r60 70 72 19
r61 69 87 34.25
r62 65 86 26.25
r63 61 108 8
r64 60 61 16.3327
r65 58 60 4.59
r66 56 112 8
r67 55 56 8.16635
r68 53 55 2.295
r69 52 104 8
r70 51 52 8.16635
r71 49 51 2.295
r72 48 51 2.295
r73 47 90 0.0252326
r74 45 101 0.0487391
r75 44 47 0.035
r76 44 45 8
r77 33 118 0.0715
r78 30 33 0.0363174
r79 30 31 0.4784
r80 28 31 0.0363174
r81 28 29 0.7878
r82 27 29 0.0363174
r83 26 27 0.8567
r84 24 26 0.0363174
r85 24 25 1.0361
r86 23 112 0.0487391
r87 22 108 0.0487391
r88 22 23 0.2444
r89 20 25 0.0363174
r90 20 110 0.0923
r91 19 35 0.0275239
r92 18 112 0.0255799
r93 18 19 0.0806
r94 16 35 0.00715299
r95 16 17 0.1235
r96 15 104 0.0487391
r97 14 35 0.0275239
r98 14 15 0.0832
r99 12 101 0.2457
r100 10 17 0.0363174
r101 10 11 1.1726
r102 9 34 0.0275239
r103 8 12 0.0363174
r104 8 9 0.299
r105 7 11 0.0363174
r106 6 34 0.00715299
r107 6 7 0.6461
r108 4 34 0.0275239
r109 4 5 0.416
r110 3 97 0.0487391
r111 2 5 0.0363174
r112 2 3 0.2236
.ends

.subckt PM_DFF%QX 24 25 29 36 43 46 56
c0 68 0 0.0410905f
c1 64 0 0.111833f
c2 61 0 0.10181f
c3 60 0 0.100768f
c4 51 0 0.11464f
c5 49 0 0.0894888f
c6 44 0 0.247271f
c7 41 0 0.0840664f
c8 39 0 0.106475f
c9 32 0 0.10737f
c10 28 0 0.277407f
c11 23 0 0.113901f
c12 21 0 0.15368f
c13 10 0 0.262756f
c14 9 0 0.211215f
c15 7 0 0.0266858f
c16 6 0 0.0330188f
c17 5 0 0.00502329f
c18 2 0 0.05825f
r19 60 76 0.032653
r20 59 61 0.01885
r21 59 60 8
r22 54 56 0.01495
r23 51 54 0.00325
r24 48 49 13.2552
r25 44 48 8.03563
r26 44 46 34.25
r27 41 48 11.1752
r28 41 43 19
r29 39 64 8
r30 38 39 16.3327
r31 36 38 4.59
r32 32 76 0.0357778
r33 31 60 16.3327
r34 31 32 16.3327
r35 29 31 2.295
r36 28 51 8
r37 27 28 8.16635
r38 25 27 2.295
r39 24 27 2.295
r40 23 49 0.0252326
r41 21 68 0.0487391
r42 20 23 0.035
r43 20 21 8
r44 12 68 0.0975
r45 11 64 0.0255799
r46 10 12 0.0363174
r47 10 11 0.4134
r48 9 61 0.0255799
r49 8 64 0.0487391
r50 8 9 0.3627
r51 6 59 0.0487391
r52 6 7 0.0702
r53 5 7 0.0363174
r54 4 5 0.0468
r55 3 54 0.0255799
r56 2 4 0.0363174
r57 2 3 0.1053
.ends

.subckt PM_DFF%Q 15 16 20 27 31 61
c0 61 0 0.184702f
c1 50 0 0.0315621f
c2 48 0 0.0679316f
c3 46 0 0.0741678f
c4 40 0 0.180693f
c5 38 0 0.149025f
c6 36 0 0.137571f
c7 33 0 0.096359f
c8 27 0 0.0987016f
c9 23 0 0.130916f
c10 19 0 0.274203f
c11 11 0 0.176864f
c12 6 0 0.0356971f
c13 5 0 0.0257712f
c14 4 0 0.223717f
r15 48 51 0.0487391
r16 48 50 0.0487391
r17 43 46 0.0487391
r18 43 44 8
r19 39 61 0.0357955
r20 38 40 0.0487391
r21 38 39 8
r22 34 61 0.0135227
r23 33 36 8.1313
r24 33 35 8.1313
r25 33 34 13.2552
r26 31 36 34.25
r27 27 35 26.25
r28 23 48 8
r29 22 23 16.3327
r30 20 22 4.59
r31 19 44 0.077
r32 18 19 8.16635
r33 16 18 2.34
r34 15 18 2.295
r35 11 51 0.4043
r36 8 50 0.117
r37 6 11 0.0363174
r38 6 46 0.1105
r39 4 8 0.0363174
r40 4 5 0.7826
r41 2 5 0.0363174
r42 2 40 0.3133
.ends

.subckt PM_DFF%GND 25 78 83 88 93 98 103 123 127 132 137 142 146
c0 146 0 0.0982932f
c1 142 0 0.116891f
c2 137 0 0.116702f
c3 132 0 0.14725f
c4 127 0 0.13072f
c5 123 0 0.149303f
c6 106 0 0.125648f
c7 103 0 8.93499e-19
c8 101 0 0.077111f
c9 96 0 0.0938397f
c10 91 0 0.0793375f
c11 86 0 0.117135f
c12 81 0 0.0662883f
c13 78 0 0.00201402f
c14 69 0 0.00371432f
c15 59 0 0.00119471f
c16 49 0 0.00319281f
c17 33 0 0.00311416f
c18 25 0 0.00415688f
c19 24 0 0.0115102f
c20 23 0 0.00374648f
c21 22 0 0.0461359f
c22 21 0 0.0146635f
c23 20 0 0.016765f
c24 19 0 0.0181816f
c25 18 0 0.0313392f
c26 16 0 0.0356748f
c27 14 0 0.0531771f
c28 12 0 0.0300391f
c29 10 0 0.0392278f
c30 8 0 0.0352243f
r31 105 106 16.3327
r32 103 105 4.59
r33 100 101 16.3327
r34 98 100 4.59
r35 95 96 16.3327
r36 93 95 4.59
r37 90 91 16.3327
r38 88 90 4.59
r39 85 86 16.3327
r40 83 85 4.59
r41 80 81 16.3327
r42 78 80 4.59
r43 74 146 0.13186
r44 70 142 0.109884
r45 69 70 8.16635
r46 64 70 0.156279
r47 63 64 5.44423
r48 60 137 0.109884
r49 59 60 8.16635
r50 54 60 0.156279
r51 53 54 5.44423
r52 50 132 0.109884
r53 49 50 8.16635
r54 44 50 0.156279
r55 43 44 5.44423
r56 38 127 0.13186
r57 34 123 0.109884
r58 33 34 8.16635
r59 28 34 0.156279
r60 27 28 5.44423
r61 25 74 5.44423
r62 25 69 9.15319
r63 25 63 9.22979
r64 25 59 9.15319
r65 25 53 9.22979
r66 25 49 9.15319
r67 25 43 9.22979
r68 25 38 5.44423
r69 25 33 9.15319
r70 25 27 9.22979
r71 24 74 0.0936047
r72 23 64 0.0724419
r73 22 54 0.0724419
r74 21 44 0.0724419
r75 20 38 0.0936047
r76 19 28 0.0724419
r77 18 106 0.0516853
r78 17 24 0.0439737
r79 17 18 0.129348
r80 16 101 0.0516853
r81 15 23 0.0439737
r82 15 16 0.129348
r83 14 96 0.0516853
r84 13 22 0.0439737
r85 13 14 0.129348
r86 12 91 0.0516853
r87 11 21 0.0439737
r88 11 12 0.129348
r89 10 86 0.0516853
r90 9 20 0.0439737
r91 9 10 0.129348
r92 8 81 0.0516853
r93 7 19 0.0439737
r94 7 8 0.129348
.ends

.subckt PM_DFF%VDD 67 68 73 74 78 83 88 93 94 98 103 104 108 113 114 118 123 183
+ 186 191 196 201 204
c0 201 0 0.0502248f
c1 196 0 0.0338942f
c2 191 0 0.119493f
c3 183 0 0.0738941f
c4 171 0 0.00229678f
c5 161 0 0.002059f
c6 151 0 0.00206954f
c7 135 0 0.00143663f
c8 126 0 0.15469f
c9 125 0 0.0309449f
c10 121 0 0.165587f
c11 117 0 0.214515f
c12 113 0 0.00251652f
c13 111 0 0.169727f
c14 107 0 0.208434f
c15 103 0 0.00289552f
c16 101 0 0.172424f
c17 97 0 0.186348f
c18 93 0 0.00404301f
c19 91 0 0.141229f
c20 88 0 0.0013109f
c21 86 0 0.146789f
c22 85 0 0.0102623f
c23 81 0 0.211116f
c24 78 0 9.05532e-19
c25 77 0 0.187379f
c26 73 0 0.00342966f
c27 71 0 0.141033f
c28 67 0 0.00186038f
c29 66 0 0.0407888f
c30 64 0 0.00181479f
c31 62 0 0.00678098f
c32 61 0 0.0545686f
c33 59 0 0.01027f
c34 56 0 0.0612956f
c35 54 0 0.0048497f
c36 52 0 0.0295701f
c37 51 0 0.167173f
c38 49 0 0.0437463f
c39 47 0 0.212412f
c40 45 0 0.085062f
c41 42 0 0.034964f
c42 40 0 1.1263e-20
c43 38 0 0.0271538f
c44 37 0 0.0297491f
c45 36 0 0.0238528f
c46 35 0 0.0368555f
c47 34 0 0.0234676f
c48 33 0 0.058641f
c49 30 0 0.0235379f
c50 29 0 0.0357448f
c51 28 0 0.0246867f
c52 27 0 0.0527857f
c53 24 0 0.0250065f
c54 23 0 0.036425f
c55 22 0 0.0337842f
c56 21 0 0.0594967f
c57 18 0 0.0301908f
c58 17 0 0.0368991f
c59 16 0 0.0301917f
c60 15 0 0.0359527f
c61 14 0 0.0551652f
c62 13 0 0.0585564f
c63 12 0 0.0344697f
c64 11 0 0.0524209f
c65 8 0 0.0260194f
c66 7 0 0.0255338f
r67 176 204 0.0284884
r68 172 201 0.112326
r69 171 172 8.16635
r70 165 166 5.44423
r71 162 196 0.112326
r72 161 162 8.16635
r73 155 156 5.44423
r74 152 191 0.112326
r75 151 152 8.16635
r76 145 146 5.44423
r77 140 186 0.0284884
r78 136 183 0.112326
r79 135 136 8.16635
r80 129 130 5.44423
r81 125 126 8.16635
r82 123 125 2.295
r83 120 121 8.16635
r84 118 120 2.295
r85 116 117 8.16635
r86 114 116 2.295
r87 113 116 2.34
r88 110 111 8.16635
r89 108 110 2.295
r90 106 107 8.16635
r91 104 106 2.295
r92 103 106 2.34
r93 100 101 8.16635
r94 98 100 2.295
r95 96 97 8.16635
r96 94 96 2.295
r97 93 96 2.34
r98 90 91 8.16635
r99 88 90 2.295
r100 85 86 8.16635
r101 83 85 2.295
r102 80 81 8.16635
r103 78 80 2.295
r104 76 77 8.16635
r105 74 76 2.295
r106 73 76 2.34
r107 70 71 8.16635
r108 68 70 2.295
r109 67 176 5.44423
r110 67 171 9.19149
r111 67 165 9.19149
r112 67 161 9.19149
r113 67 155 9.19149
r114 67 151 9.19149
r115 67 145 9.19149
r116 67 140 5.44423
r117 67 135 9.19149
r118 67 129 9.19149
r119 66 176 0.0944186
r120 65 126 0.0746667
r121 64 204 0.0651163
r122 63 121 0.0746667
r123 61 166 0.115581
r124 61 62 0.0171457
r125 60 172 0.00325581
r126 60 62 0.0171457
r127 59 166 0.0724419
r128 58 111 0.0746667
r129 56 156 0.115581
r130 56 57 0.0171457
r131 55 162 0.00325581
r132 55 57 0.0171457
r133 54 156 0.0724419
r134 53 101 0.0746667
r135 51 146 0.115581
r136 51 52 0.0171457
r137 50 152 0.00325581
r138 50 52 0.0171457
r139 49 146 0.0724419
r140 48 91 0.0746667
r141 47 140 0.0944186
r142 46 86 0.0746667
r143 45 186 0.0651163
r144 44 81 0.0746667
r145 42 130 0.115581
r146 42 43 0.0171457
r147 41 136 0.00325581
r148 41 43 0.0171457
r149 40 130 0.0724419
r150 39 71 0.0746667
r151 38 66 0.0439737
r152 37 65 0.0433427
r153 37 38 0.138478
r154 36 64 0.0439737
r155 35 63 0.0433427
r156 35 36 0.138478
r157 34 62 0.0210391
r158 33 117 0.0516853
r159 33 34 0.138478
r160 30 59 0.0439737
r161 29 58 0.0433427
r162 29 30 0.138478
r163 28 57 0.0210391
r164 27 107 0.0516853
r165 27 28 0.138478
r166 24 54 0.0439737
r167 23 53 0.0433427
r168 23 24 0.138478
r169 22 52 0.0210391
r170 21 97 0.0516853
r171 21 22 0.138478
r172 18 49 0.0439737
r173 17 48 0.0433427
r174 17 18 0.138478
r175 16 47 0.0439737
r176 15 46 0.0433427
r177 15 16 0.138478
r178 14 45 0.0439737
r179 13 44 0.0433427
r180 13 14 0.138478
r181 12 43 0.0210391
r182 11 77 0.0516853
r183 11 12 0.138478
r184 8 40 0.0439737
r185 7 39 0.0433427
r186 7 8 0.138478
.ends

.subckt PM_DFF%NMOS1 2 3
c0 5 0 0.17647f
c1 2 0 0.00131499f
r2 3 5 4.59
r3 2 5 4.59
.ends

.subckt PM_DFF%D 4 8 17
c0 17 0 0.148561f
c1 13 0 0.167809f
c2 10 0 0.124414f
c3 4 0 0.109773f
r4 11 17 0.0203488
r5 10 13 8.1313
r6 10 12 8.1313
r7 10 11 13.2552
r8 8 13 34.25
r9 4 12 26.25
.ends

.subckt PM_DFF%NMOS12 2 3
c0 5 0 0.173601f
c1 2 0 0.00192837f
r2 3 5 4.59
r3 2 5 4.59
.ends

.subckt PM_DFF%NMOS7 1 2
c0 1 0 0.00678849f
r1 1 2 9.18
.ends

.subckt PM_DFF%NMOS6 1 2
r0 1 2 9.27
.ends

.subckt PM_DFF%NMOS4 1 2
c0 1 0 0.00971226f
r1 1 2 9.18
.ends

.subckt PM_DFF%NMOS3 1 2
r0 1 2 9.27
.ends

.subckt PM_DFF%NMOS10 1 2
r0 1 2 9.18
.ends

.subckt PM_DFF%NMOS9 1 2
r0 1 2 9.27
.ends

.subckt PM_DFF%NMOS15 1 2
c0 1 0 0.00838369f
r1 1 2 9.18
.ends

.subckt PM_DFF%NMOS14 1 2
c0 1 0 0.00609381f
r1 1 2 9.27
.ends

